US07491748B2
4-amino-3-hydroxybenzoic acid methyl ester hydrochloride
To an anhydrous methanol (100 ml) was added thionyl chloride (14.0 ml) at −10° C. during 20 minutes. After stirring the mixture for 15 minutes, 3-hydroxy-4-aminobenzoic acid (10.0 g) was added at the same temperature. The appeared suspension was stirred at room temperature overnight. The mixture was concentrated and then azeotroped with methanol (50 ml, twice). To the residue was added diethyl ether, and the residue was collected by suction filtration in washing with diethyl ether to give the title compound (12.8 g) having the following physical data.

reactant | thionyl chloride | 14.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxy-4-aminobenzoic acid | 10.0 g | OC=1C=C(C(=O)O)C=CC1N | C7H7NO3
reactant | methanol | 100 ml | CO | CH4O
product | 4-amino-3-hydroxybenzoic acid methyl ester hydrochloride | 12.8 g | Cl.COC(C1=CC(=C(C=C1)N)O)=O | InChI=1S/C8H9NO3.ClH/c1-12-8(11)5-2-3-6(9)7(10)4-5;/h2-4,10H,9H2,1H3;1H
